US08349851B2
To a suspension of ethyl 4-chloroquinazoline-2-carboxylate (237 mg, 1 mmol) in THF (5 mL) was added dropwise a 1M solution of 3-fluorophenylmagnesium bromide in THF (2 mL, 2 mmol) at −20° C. The reaction mixture was stirred at −20° C. for 4 h. The mixture was quenched by adding 0.5 N HCl solution (5 mL) and the biphasic mixture was extracted with EtOAc (2×10 mL). The combined organic layers were washed with brine and dried over MgSO4. (4-chloroquinazolin-2-yl)(3-fluorophenyl)methanone was obtained as a yellow solid (190 mg, 66%). LC-MS (ESI) m/z 287 (M+H)+.

reactant | ethyl 4-chloroquinazoline-2-carboxylate | 1 mmol, 237 mg | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | 3-fluorophenylmagnesium bromide | FC=1C=C(C=CC1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mmol, 2 mL | C1CCOC1 | C4H8O
product | (4-chloroquinazolin-2-yl)(3-fluorophenyl)methanone | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=CC(=CC=C1)F | C15H8ClFN2O
